US06117866
A solution of the t-butyl 4-(isopentylamino)methyl-3-nitrobenzoate (5.3 mmol), triethylamine (2.1 g, 21 mmol) and di-t-butyl dicarbonate (3.44 g, 15.8 mmol) in THF (50 mL) was stirred 24 h. The mixture was concentrated and the residue dissolved in ethyl acetate (200 mL). The solution was extracted with water, dried (sodium sulfate) and concentrated to give a yellow oil which was purified by chromatography over silica gel to yield t-butyl 4-[N-(t-butoxycarbonyl)-N-(isopentyl)amino-methyl]-3-nitrobenzoate.

reactant | t-butyl 4-(isopentylamino)methyl-3-nitrobenzoate | 5.3 mmol | C(CC(C)C)NCC1=C(C=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C17H26N2O4
reactant | triethylamine | 21 mmol, 2.1 g | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 15.8 mmol, 3.44 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | t-butyl 4-[N-(t-butoxycarbonyl)-N-(isopentyl)amino-methyl]-3-nitrobenzoate | C(C)(C)(C)OC(=O)N(CCC(C)C)CC1=C(C=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C22H34N2O6
